reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([O:3][O:7]/[C:6](=[C:4](/[C:5]([H:14])([H:15])[H:16])[H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],33.863417628390096
[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3](=[C:4]([C:5]#[N:6])[H:15])([H:12])[H:13].[H:7][H:14]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],40.061655745768
[C:1]([C:2](=[O:3])[N:6]=[C:5]=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],47.297471270188595
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[O+:7]=[C-:6][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],65.4072445778333
[O:1]=[C:2]([O+:4]=[C:3]=[C:5]=[N-:6])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7],0.7725633708541011
[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N:2][H:10])([H:7])[H:9].[C:3](=[O:4])=[C:5]=[C:6]([H:8])[H:11],62.01881073825261
[C:1]([C@:2]([C:3](=[O:4])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:12])([H:8])([H:9])[H:10].[H:11][H:14]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],67.34714938777013
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:2](=[C:3]([N:4]([C+:5]([O-:6])[H:13])[H:12])[H:10])([H:8])[H:9].[O:1]([H:7])[H:11],68.83772620996321
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C@@:3]([C:6]#[N:7])([H:11])[C:4]1=[C:5]([H:8])[H:12],72.3566497335004
[N:1]([C:2](=[O:3])[H:8])([N:6]=[C:5]=[C:4]([H:9])[H:10])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],42.797644181393096
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([O:3][H:12])[C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13],88.2376441577108
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:4](=[O:5])([H:14])[H:15].[C:6]([H:11])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],74.6944586244768
[C:1]([N+:2]([C-:3]([H:10])[H:12])=[C:4]([H:13])[H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:15]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],9.135790762744001
[C:1]([C-:2]=[O+:3][C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],46.17770471136291
[C:1]([C:2](=[C:3]([H:11])[H:12])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9].[O:4]([H:10])[H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],58.70813478888374
[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[C:1](/[C:2](=[C:3](\[C:4]#[N:5])[H:8])[H:7])[H:6],74.6392154108018
[C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[C:5]#[C:6][H:14])([H:7])[H:8].[O:4]([H:9])[H:13]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9],56.426461055235535
[C:1]([C:2]1=[C:6]([H:14])[O:5][C@:4]2([H:13])[C:3]([H:11])([H:12])[C@:7]12[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],117.40113397359221
[C:1]([C:2](=[C:3]([H:10])[H:11])[H:8])([C:5]([O:4][H:9])([H:12])[H:13])([H:6])[H:7]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[O:4][C:5]1([H:12])[H:13],72.6147578977472
[O:1]([C:2]([C:3]#[N:4])([H:6])[H:7])[H:5]>>[O:1]([N:4]=[C:3]=[C:2]([H:6])[H:7])[H:5],104.627209341685
[C:1]([O:2]/[C:3]([O:4][H:12])=[C:5](/[C:6]([O:7][H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],47.4584896815097
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O+:3]=[C-:2][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],112.70456740906602
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])[H:9].[C:5](=[O:6])([H:8])[H:14],89.7938830130163
[C:1]([C@@:2]1([H:11])[O:3][C:6](=[C:7]([H:12])[H:13])[C:4]1=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],84.8733261249925
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C:2]1=[C:6]([H:9])[C:7]([H:12])=[N+:5]=[C-:4][C:3]1([H:10])[H:11])[H:8],93.2883543300143
